US06566377B2
4-(4-Phenyl-thiazol-2-yl)-phenol
In a round-bottomed flask, 2-bromoacetophenone (520 mg, 2.61 mmol) and 4-hydroxy-thiobenzamide (400 mg, 2.61 mmol) were dissolved in ethanol (10 ml), and the resulting solution was heated to reflux. After about one hour, the reaction was cooled to about 35° C. and was allowed to stir for about an additional twelve hours. The reaction mixture was then concentrated in vacuo to an oil, the residue redissolved in ethyl acetate and methylene chloride, and extracted with saturated aqueous sodium bicarbonate. The combined extracts were then extracted with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to an oil. The crude product was purified by column chromatography (silica gel; methylene chloride to 2% methanol/methylene chloride). The title product was isolated as a white solid (516 mg, 78% yield). LRMS ([M+H]+)=254.1.

reactant | 2-bromoacetophenone | 2.61 mmol, 520 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | 4-hydroxy-thiobenzamide | 2.61 mmol, 400 mg | OC1=CC=C(C(=S)N)C=C1 | C7H7NOS
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(4-Phenyl-thiazol-2-yl)-phenol | C1(=CC=CC=C1)C=1N=C(SC1)C1=CC=C(C=C1)O | C15H11NOS
